US04045576
Sodium 2-amino-6-benzoylphenylacetate Hydrate.
A suspension of 4.5 g. (0.0190 mole) of 4-benzoylindolin-2-one in 200 ml. of 3N sodium hydroxide was refluxed under a nitrogen atmosphere for 4 hr. The volume of water was reduced by approximately half, and the solution saturated with sodium chloride. The solution was chromatographed on a 230 ml. (wet volume) column of Amberlite XAD-2 ion exchange resin packed in distilled water. The product precipitated on the top of the column packing, but dissolved as the column was eluted with distilled water. The fractions containing the product were collected, combined, and the solvent removed under reduced pressure to give 4.6 g. of solid. Recrystallization from methanol-ether gave 0.91 g. of a yellow solid, m.p. 256.5°-258.5° C. (dec.). The filtrate was evaporated under reduced pressure and the residue was dissolved in hot isopropanol by adding a small amount of water. The hot solution was filtered to remove a suspended solid. The filtrate seeded and placed in the freezer for 12 hr. The pale yellow solid which separated was collected by filtration and yielded 2.84 g. (50.3%) of product, m.p. 254.5°-256° C. (dec.). A portion of the bulk product was dried under high vacuum at room temperature.

reactant | 4-benzoylindolin-2-one | 0.0190 mole | C(C1=CC=CC=C1)(=O)C1=C2CC(NC2=CC=C1)=O | C15H11NO2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | Sodium 2-amino-6-benzoylphenylacetate Hydrate | O.NC1=C(C(=CC=C1)C(C1=CC=CC=C1)=O)CC(=O)[O-].[Na+] | InChI=1S/C15H13NO3.Na.H2O/c16-13-8-4-7-11(12(13)9-14(17)18)15(19)10-5-2-1-3-6-10;;/h1-8H,9,16H2,(H,17,18);;1H2/q;+1;/p-1
